US08791132B2
A mixture of 4-bromobenzenesulfonamide (200 mg, 0.84 mmol), 5-ethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (391 mg, 1.0 mmol), TBAF.3H2O (793 mg, 2.5 mmol) and dichloro bis(triphenyl phosphine) palladium (II) (29 mg, 0.042 mmol) was stirred at 85° C. for 10 min. The reaction mixture was poured into water and extracted with EtOAc (3×50 mL). The organic layer was washed with water (3×100 mL), dried over anhydrous sodium sulfate and concentrated to afford crude material, which was purified by column chromatography using neutral alumina and 5% MeOH-DCM, followed by reverse phase HPLC to yield 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-ylethynyl)-benzenesulfonamide. 1H NMR (CD3OD, HCl salt) δ (ppm): 7.92 (d, 2H), 7.7 (d, 2H), 7.58 (d, 1H), 7.38 (s, 1H), 7.23 (d, 1H), 4.7 (d, 1H), 4.4 (d, 1H), 3.96 (m, 1H), 3.63 (m, 1H), 3.37 (m, 2H), 3.18 (s, 3H), 2.42 (s, 3H).

reactant | 4-bromobenzenesulfonamide | 0.84 mmol, 200 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | 5-ethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.0 mmol, 391 mg | C(#C)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C15H16N2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | water | O | H2O
product | 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-ylethynyl)-benzenesulfonamide | CN1CC2=C(N(C=3C=CC(=CC23)C)C#CC2=CC=C(C=C2)S(=O)(=O)N)CC1 | C21H21N3O2S
